US07550597B2
2-(3-Fluorophenylamino)-6,7-diethoxyquinoxaline
To 0.25 g (0.989 mmol) of 2-chloro-6,7-diethoxyquinoxaline is added 2 mL of m-fluoroaniline. This mixture is heated under nitrogen overnight to 120° C. The resulting mixture is chromatographed (30:1 CH2Cl2: EtOH) to yield partially purified product. This solid is triturated with ethyl acetate to give 0.175 g of the product as a brownish yellow solid in 54.1% yield (m.p. 193° C.). Anal. Calcd for C18H18N3O2F.0.25H2O: C, 65.15; H, 5.62; N, 12.66. Found: C, 65.30; H, 5.30; N, 12.41.

reactant | 2-chloro-6,7-diethoxyquinoxaline | 0.989 mmol, 0.25 g | ClC1=NC2=CC(=C(C=C2N=C1)OCC)OCC | C12H13ClN2O2
reactant | m-fluoroaniline | 2 mL | FC=1C=C(N)C=CC1 | C6H6FN
product | 2-(3-Fluorophenylamino)-6,7-diethoxyquinoxaline | 0.175 g, 54.1% yield | FC=1C=C(C=CC1)NC1=NC2=CC(=C(C=C2N=C1)OCC)OCC | C18H18FN3O2
